US04900752
7,8-dihydro-6,6-dimethyl-7,8-epoxy-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazol 3-oxide
To a mixture of 4.41 g (18.9 m mol) of 6-amino-3,4-dihydro-2,2-dimethyl-3,4-epoxy-7-nitro-2H-benzo [b] pyran, 1.29 g (32 m mol) of sodium hydroxide, 400 ml of ethanol and 40 ml of water were added slowly dropwise 32.2 g (26 m mol) of 6% sodium hypochlorite solution at the room temperature with stirring.

reactant | 6-amino-3,4-dihydro-2,2-dimethyl-3,4-epoxy-7-nitro-2H-benzo [b] pyran | 4.41 g | NC1=CC2=C(OC(C3C2O3)(C)C)C=C1[N+](=O)[O-] | C11H12N2O4
reactant | sodium hydroxide | 1.29 g | [OH-].[Na+]
reactant | ethanol | 400 ml | C(C)O | C2H6O
reactant | sodium hypochlorite | 32.2 g | Cl[O-].[Na+]
solvent | water | 40 ml | O | H2O
product | 7,8-dihydro-6,6-dimethyl-7,8-epoxy-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazol 3-oxide | CC1(C2C(C=3C(=CC=4C(=NO[N+]4[O-])C3)O1)O2)C | C11H10N2O4
